US07772270B2
Compound No. 23: 1-(4′-Methanesulfonylaminobiphenyl-4-sulfonyl)octahydro-cyclopenta[b]pyrrole-2-carboxylic acid
500 mg (1.30 mmol) of 1-(4′-aminobiphenyl-4-sulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid were dissolved in 3 ml of DMF, after which the solution was cooled down to 0° C. in an ice bath and 2.6 mmol of pyridine were added. After the mixture had been stirred at 0° C. for 15 min, 1.40 mmol of methanesulfonyl chloride in 3 ml of DMF were added. The reaction solution was then stirred at room temperature for a further 6 h. The crude product was purified using chromatographic methods.

reactant | 1-(4′-aminobiphenyl-4-sulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid | 1.30 mmol, 500 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N1C2C(CC1C(=O)O)CCC2 | C20H22N2O4S
reactant | pyridine | 2.6 mmol | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 1.40 mmol | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-(4′-Methanesulfonylaminobiphenyl-4-sulfonyl)octahydro-cyclopenta[b]pyrrole-2-carboxylic acid | CS(=O)(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)N1C2C(CC1C(=O)O)CCC2 | C21H24N2O6S2
